US08202873B2
3′-(4-Methoxyphenyl)-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Couple 3′-(4-methoxyphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.103 g, 0.400 mmol) and 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde (0.0727 g, 0.526 mmol) using sodium triacetoxyborohydride (0.167 g, 0.788 mmol) in DCE (5 mL). Stir at room temperature for 18 hr, and add the reaction mixture to an SCX column. Elute with 2 M ammonia in methanol. Purify by silica gel chromatography, eluting with 0:100 to 20:80 methanol:DCM. Dissolve the residue in methanol and add ammonium chloride (1.3 mL of a 0.2 M solution of ammonium chloride in methanol, 0.26 mmol). Stir overnight, concentrate, add diethyl ether and stir overnight. Isolate the solid product by filtration and vacuum dry overnight to give the title compound (100 mg, 58%). MS (ES): m/z=393 [M+H]+.

reactant | 3′-(4-methoxyphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.400 mmol, 0.103 g | COC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C15H18N4O
reactant | 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde | 0.526 mmol, 0.0727 g | CN1N=C(C(=C1C)C=O)C | C7H10N2O
reactant | sodium triacetoxyborohydride | 0.788 mmol, 0.167 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3′-(4-Methoxyphenyl)-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 100 mg, 58% | Cl.COC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1C)C)C | InChI=1S/C22H28N6O.ClH/c1-16-20(17(2)26(3)25-16)15-27-11-13-28(14-12-27)22-21(23-9-10-24-22)18-5-7-19(29-4)8-6-18;/h5-10H,11-15H2,1-4H3;1H
